US09212190B2
A 100-mL round-bottom flask was charged with a solution of 2-[(tert-butyldimethylsilyl)oxy]-3-[(3R)-12-[[4-(morpholin-4-yl)cyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2 (6),9,11-tetraen-3-yl]propanamide (197 mg, 0.35 mmol, 1.00 equiv) in methanol (10 mL). Hydrochloric acid (2 M, 0.8 mL) was added and stirring continued for 2 hr in a water/ice bath. After completion, the reaction was quenched with saturated aqueous sodium bicarbonate and extracted with 3×30 mL of DCM. The organic phase was dried over sodium sulfate and concentrated under vacuum. The residue was purified by preparative TLC (DCM/MeOH:10/1) to afford the 2-hydroxy-3-[(3R)-12-[[4-(morpholin-4-yl)cyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2 (6),9,11-tetraen-3-yl]propanamide (124 mg, 79%) as a white solid. MS (ES): m/z 447 [M+H]+. 1H NMR (400 MHz, CDCl3): δ 8.46 (s, 1H), 5.28-5.25 (m, 1H), 4.17-4.06 (m, 51H), 3.74-3.72 (m, 5H), 3.37-2.98 (m, 2H), 2.72-2.28 (m, 10H), 2.11-2.08 (m, 2H), 1.79-1.46 (m, 5H).

reactant | 2-[(tert-butyldimethylsilyl)oxy]-3-[(3R)-12-[[4-(morpholin-4-yl)cyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2 (6),9,11-tetraen-3-yl]propanamide | 0.35 mmol, 197 mg, 1.00 equiv | [Si](C)(C)(C(C)(C)C)OC(C(=O)N)C[C@@H]1C=2C=3C(=NC=NC3SC2CC1)OC1CCC(CC1)N1CCOCC1 | C28H44N4O4SSi
reactant | Hydrochloric acid | 2 M, 0.8 mL | Cl | ClH
solvent | methanol | 10 mL | CO | CH4O
product | 2-hydroxy-3-[(3R)-12-[[4-(morpholin-4-yl)cyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2 (6),9,11-tetraen-3-yl]propanamide | 124 mg, 79% | OC(C(=O)N)C[C@@H]1C=2C=3C(=NC=NC3SC2CC1)OC1CCC(CC1)N1CCOCC1 | C22H30N4O4S
